US07750038B2
This compound was prepared according to the general procedure for sulfonylation of indolines and tetrahydroquinolines described in Example 4 using 6-bromo-1,2,3,4-tetrahydroquinoline (0.40 g, 1.89 mmol) and methanesulfonyl chloride (0.22 mL, 2.8 mmol) to provide 6-bromo-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoline (0.33 g). MS (ES) m/z 289.7; HPLC purity 97.2% at 210-370 nm, 10.2 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes.

reactant | 6-bromo-1,2,3,4-tetrahydroquinoline | 1.89 mmol, 0.40 g | BrC=1C=C2CCCNC2=CC1 | C9H10BrN
reactant | methanesulfonyl chloride | 2.8 mmol, 0.22 mL | CS(=O)(=O)Cl | CH3ClO2S
product | 6-bromo-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoline | 0.33 g | BrC=1C=C2CCCN(C2=CC1)S(=O)(=O)C | C10H12BrNO2S
